US07771695B2
A suspension of pentacene (287 mg, 1 mmole) and maleimide (1 mmole) in 4 mL of dichlorobenzene is heated to 160° C. for 4 hours. The mixture is cooled to room temperature and the precipitate is filtered, washed with toluene and dried. Recrystallization from dichlorobenzene affords pure samples of pentacene-maleimide adduct as white needles.

reactant | pentacene | 1 mmole, 287 mg | C1=CC=CC2=CC3=CC4=CC5=CC=CC=C5C=C4C=C3C=C12 | C22H14
reactant | maleimide | 1 mmole | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | dichlorobenzene | 4 mL | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | pentacene maleimide | C1=CC=CC2=CC3=CC4=CC5=CC=CC=C5C=C4C=C3C=C12.C1(C=CC(N1)=O)=O | InChI=1S/C22H14.C4H3NO2/c1-2-6-16-10-20-14-22-12-18-8-4-3-7-17(18)11-21(22)13-19(20)9-15(16)5-1;6-3-1-2-4(7)5-3/h1-14H;1-2H,(H,5,6,7)
